US08217032B2
6-(2,5-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride
Dissolve 1-(2-{4-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine hydrochloride (133 mg, 0.25 mmol) in dichloromethane (5 ml), cool in an ice bath and add boron tribromide (1M in dichloromethane, 0.76 mL, 0.76 mmol). Let slowly warm to ambient temperature over 18 hours, quench with saturated aqueous solution of sodium bicarbonate, dry organic layer with magnesium sulfate, filter and chromatograph on silica gel with dichloromethane/methanol mixtures. Combine fractions containing product, add 1M hydrogen chloride in ether (1 mL) and remove solvent under vacuum to give 108 mg (83%) of the title compound: mass spectrum (ion spray) m/z=476 (M−Cl).

reactant | 1-(2-{4-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine hydrochloride | 0.25 mmol, 133 mg | Cl.FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1
reactant | boron tribromide | 0.76 mmol, 1M, 0.76 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-(2,5-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride | 108 mg, 83% | Cl.FC1=C(C=C(C=C1)F)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C29H27F2NO3.ClH/c30-21-5-13-28(31)27(19-21)26-11-4-20-18-22(33)6-12-25(20)29(26)35-24-9-7-23(8-10-24)34-17-16-32-14-2-1-3-15-32;/h4-13,18-19,33H,1-3,14-17H2;1H
